US06794390B2
Preparation of 2-amino-6-chloro-9-methylpurine (7).
The 2-amino-6-chloropurine (1.08 g, 6.4 mmol) was suspended in dry DMF (75 ml) and treated with sodium hydride, 60% dispersion (0.28 g, 7 mmol). The suspension was stirred for 15 min before iodomethane (0.44 ml, 7.06 mmol) was added and the resulting yellow solution stirred for 1 hr 45 min. The solid was filtered and the filtrate evaporated before addition of water for 10 min. The resulting solid was filtered and dried overnight to give the product as a mixture of N-7 and N-9 alkylation products. The residual liquor was left overnight and more crystals were collected the next day and dried. Yield=77%.

reactant | 2-amino-6-chloropurine | 6.4 mmol, 1.08 g | NC1=NC(=C2NC=NC2=N1)Cl | C5H4ClN5
reactant | sodium hydride | [H-].[Na+]
reactant | iodomethane | 7.06 mmol, 0.44 ml | IC | CH3I
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
product | 2-amino-6-chloro-9-methylpurine | Yield=77% | NC1=NC(=C2N=CN(C2=N1)C)Cl | C6H6ClN5
